US07495054B2
2-Methyl-acrylic acid 2-([1,5]dithiocan-3-yloxycarbonylamino)-ethyl ester
A mixture of 3-hydroxy-1,5-dithiacyclooctane (5.00 grams, 30 millimoles), 2-isocyanatoethyl methacrylate (4.72 grams, 30 millimoles), tetrahydrofuran (15 milliliters), and one drop of dibutyltin dilaurate were stirred at 55° C. for three hours. The solvent was then removed under reduced pressure and the crude product was purified by column chromatography over silica gel using a mixture of ethyl acetate/hexane (30/70). The product was isolated as a white solid (7.72 grams, 79% yield). Purity and structure verification of Example 9 were confirmed by 1H NMR.

reactant | 3-hydroxy-1,5-dithiacyclooctane | 30 millimoles, 5.00 grams | OC1CSCCCSC1 | C6H12OS2
reactant | 2-isocyanatoethyl methacrylate | 30 millimoles, 4.72 grams | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
catalyst | dibutyltin dilaurate | one drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | tetrahydrofuran | 15 milliliters | O1CCCC1 | C4H8O
product | 2-Methyl-acrylic acid 2-([1,5]dithiocan-3-yloxycarbonylamino)-ethyl ester | 7.72 grams, 79% yield | S1CC(CSCCC1)OC(=O)NCCOC(C(=C)C)=O | C13H21NO4S2
